US08440672B2
Step B: Preparation of 6-(1-{4-[2-(2,5-dimethyl-1H-pyrrol-1-yl)pyrimidin-5-yl]phenyl}-1,2-dimethylpropyl)pyridin-3-yl trifluoromethanesulfonate (i-3d)
2-[N,N-Bis(trifluoromethansulfonyl)amino]pyridine (13.2 g, 37.0 mmol) was added to a stirred solution of i-3d-OH (15.6 g, 37.9 mmol), triethylamine (6.50 mL, 46.6 mmol) and DMAP (256 mg, 2.10 mmol) in DCM (270 mL) at 0° C. After approximately 2 h, the reaction mixture was poured into saturated aqueous sodium bicarbonate and extracted three times with EtOAc. The combined organic extracts were washed with saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate) and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (gradient elution; 30%-80% EtOAc/hexanes as eluent) to afford i-3d. m/z (ES) 545 (MH)+. 1HNMR (500 MHz, CDCl3): δ 8.97 (s, 2H), 8.61 (d, 1H, J=3.0 Hz), 7.57 (d, 2H, J=8.4 Hz), 7.53 (m, 1H), 7.53 (d, 2H, J=8.0 Hz), 7.37 (d, 1H, J=8.7 Hz), 5.95 (s, 2H), 3.15 (m, 1H), 2.41 (s, 6H), 1.78 (s, 3H), 0.89 (d, 3H, J=6.7 Hz), 0.86 (d, 3H, J=6.9 Hz).

reactant | 2-[N,N-Bis(trifluoromethansulfonyl)amino]pyridine | 37.0 mmol, 13.2 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
reactant | 6-(1-{-4-[2-(2,5-dimethyl-1H-pyrrol-1-yl)pyrimidin-5-yl]phenyl}-1,2-dimethylpropyl)pyridin-3-ol | 37.9 mmol, 15.6 g | CC=1N(C(=CC1)C)C1=NC=C(C=N1)C1=CC=C(C=C1)C(C(C)C)(C)C1=CC=C(C=N1)O | C26H28N4O
reactant | triethylamine | 46.6 mmol, 6.50 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | DMAP | 2.10 mmol, 256 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 270 mL | C(Cl)Cl | CH2Cl2
product | 6-(1-{4-[2-(2,5-dimethyl-1H-pyrrol-1-yl)pyrimidin-5-yl]phenyl}-1,2-dimethylpropyl)pyridin-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=NC(=CC1)C(C(C)C)(C)C1=CC=C(C=C1)C=1C=NC(=NC1)N1C(=CC=C1C)C)(F)F | C27H27F3N4O3S
